US07700641B2
Synthesis of 1′-(2-piperidin-4-ylethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride
To a solution of tert-butyl 4-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]piperidine-1-carboxylate (0.94 g, 1.91 mmol) in dioxane (5.00 mL) was added 4.0 M HCl in dioxane (2.00 mL, 8.00 mmol). The mixture was stirred at ambient temperature for 30 min followed by the addition of anhydrous ether (40.0 mL). The precipitated white solid was filtered, washed with ether and dried to give the title compound (0.75 g, 91%): 1H NMR (300 MHz, CD3OD) δ 7.37 (t, 1H), 7.20-7.07 (m, 3H), 6.52 (s, 1H), 6.10 (s, 1H), 5.86 (s, 2H), 4.83 (d, 1H), 4.67 (d, 1H), 3.97-3.75 (m, 2H), 3.45-3.33 (m, 2H), 3.01-2.85 (m, 2H), 2.15-2.01 (m, 2H), 1.82-1.37 (m, 5H); 13C NMR (75 MHz, CD3OD) δ 179.8, 157.6, 150.4, 143.7, 143.4, 133.6, 130.3, 124.9, 124.8, 120.8, 110.3, 103.7, 102.9, 94.3, 81.4, 59.8, 45.2, 38.5, 34.4, 32.6, 29.8, 29.7; MS (ES+) m/z 393 (M+1).

reactant | tert-butyl 4-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]piperidine-1-carboxylate | 1.91 mmol, 0.94 g | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C28H32N2O6
reactant | HCl | 4.0 M | Cl | ClH
reactant | ether | 40.0 mL | CCOCC | C4H10O
solvent | dioxane | 5.00 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.00 mmol, 2.00 mL | O1CCOCC1 | C4H8O2
product | 1′-(2-piperidin-4-ylethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride | 0.75 g, 91% | Cl.N1CCC(CC1)CCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | InChI=1S/C23H24N2O4.ClH/c26-22-23(13-27-19-12-21-20(11-17(19)23)28-14-29-21)16-3-1-2-4-18(16)25(22)10-7-15-5-8-24-9-6-15;/h1-4,11-12,15,24H,5-10,13-14H2;1H
